US08808703B2
Step 8: (14R,18R)-14-amino-18-(dodecyloxy)-13-oxo-3,6,9,20-tetraoxa-16-thia-12-azadotriacontylphosphonic acid
To a solution of diethyl (14R,18R)-14-amino-18-(dodecyloxy)-13-oxo-3,6,9,20-tetraoxa-16-thia-12-azadotriacontylphosphonate (1 eq) in DCM (0.1 M) was added trimethylsilyl bromide (20 eq). The reaction mixture was stirred at room temperature overnight and then concentrated. The crude mixture was purified by reverse phase high performance liquid chromatography (HPLC) with C4 column eluting with a gradient of 50-100% MeCN/10 mM NH4OAc (95:5) in 10 mM NH4OAc (pH 9) to give the title compound as a white solid. 1H NMR (CDCl3): δ 8.73 (br s, 1H), 4.17 (br s, 1H), 3.70-3.83 (m, 3H), 3.57-3.70 (m, 10H), 3.50-3.57 (m, 4H), 3.45-3.50 (m, 2H), 3.33-3.45 (m, 4H), 3.02-3.16 (m, 2H), 2.65-2.79 (m, 2H), 1.90 (dd, 2H), 1.47-1.61 (m, 4H), 1.16-1.36 (m, 36H), 0.88 (t, 6H). LRMS [M+H]=771.5.

reactant | diethyl (14R,18R)-14-amino-18-(dodecyloxy)-13-oxo-3,6,9,20-tetraoxa-16-thia-12-azadotriacontylphosphonate | 1 eq | N[C@H](C(NCCOCCOCCOCCP(OCC)(OCC)=O)=O)CSC[C@@H](COCCCCCCCCCCCC)OCCCCCCCCCCCC | C42H87N2O9PS
reactant | trimethylsilyl bromide | 20 eq | C[Si](C)(C)Br | C3H9BrSi
solvent | DCM | 0.1 M | C(Cl)Cl | CH2Cl2
product | (14R,18R)-14-amino-18-(dodecyloxy)-13-oxo-3,6,9,20-tetraoxa-16-thia-12-azadotriacontylphosphonic acid | N[C@H](C(NCCOCCOCCOCCP(O)(O)=O)=O)CSC[C@@H](COCCCCCCCCCCCC)OCCCCCCCCCCCC | C38H79N2O9PS
